US20010007764A1
H-D-norLeu-OMe.HCl
To 270 ml of methanol, cooled to −15° C., 18.2 g of thionylchloride was added. Subsequently, the temperature was allowed to rise to −10° C. than kept constant for 20 min after which 10 g H-D-norLeu-OH was added. The temperature was slowly increased and at reflux kept constant for 5 h. The product was crystallized from methanol and diethyl ether at 4° C. and this yielded 12.9 g. TLC: Rf=0.61, silica gel, n-butanou/acetic acid/water 10/1/3 v/v/v.

reactant | thionylchloride | 18.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | H-D-norLeu-OH | 10 g | N[C@H](CCCC)C(=O)O | C6H13NO2
reactant | methanol | 270 ml | CO | CH4O
product | H-D-norLeu-OMe.HCl | N[C@H](CCCC)C(=O)OC.Cl | InChI=1S/C7H15NO2.ClH/c1-3-4-5-6(8)7(9)10-2;/h6H,3-5,8H2,1-2H3;1H/t6-;/m1./s1
